US07365230B2
Synthesis of 4-(N,N-diphenylamino)cinnamic acid
All glassware was dried in a drying oven heated to 140° C. Malonic acid was dried on a high vacuum line over P2O5 and then stored in a nitrogen purged glovebox. Pyridine (Aldrich, anhydrous, 99.8%) and piperidine were used as received and stored in the glovebox. In a 100 mL round bottom flask equipped with a stir bar, condenser and nitrogen inlet-outlet was dissolved malonic acid (2.3 g, 22.0 mmol) in 20 mL pyridine. 4-(N,N-Diphenylamino)benzaldehyde (5.0 g, 18.3 mmol) was added and addition of 20 mL pyridine was necessary to obtain a solution. Piperidine (0.18 mL, 1.8 mmol) was added and the solution was heated to reflux. After heating for 25 hours, malonic acid (0.60 g, 5.8 mmol) was added and heating was resumed for an additional 2.5 h after which time no further reaction was observed. The reaction mixture was allowed to cool to room temperature and then poured into a stirring mixture of 12 N HCl in ice water (1:5). The mixture was filtered and the solids rinsed three times with 20 mL water. The solids were collected and the crude product was purified by recrystallization from 5:3 hexanes:EtOAc at 4° C. The mother liquor was concentrated and recrystallized in a similar fashion from 7:3 hexanes:ethyl acetate. The combined crops give 3.1 g of a light brown powder. The yield was 55%.

reactant | malonic acid | 22.0 mmol, 2.3 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | 4-(N,N-Diphenylamino)benzaldehyde | 18.3 mmol, 5.0 g | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C19H15NO
reactant | Piperidine | 1.8 mmol, 0.18 mL | N1CCCCC1 | C5H11N
reactant | malonic acid | 5.8 mmol, 0.60 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | HCl | 12 N | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 4-(N,N-diphenylamino)cinnamic acid | 3.1 g, yield was 55% | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=C(C=CC(=O)O)C=C1 | C21H17NO2
